US09353107B2
Step-ii 2-(4-(4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazin-1-yl)acetamide
Using similar reaction conditions as described in step-i of example-82A, 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine hydrochloride (50 mg. 0.077 mmol) was alkylated using 2-chloroacetamide (10 mg, 0.116 mmol) and sodium bicarbonate (20 mg, 0.231 mmol) in acetone/ethanol (5/5 mL) to get 25 mg (49.01% yield) of the titled compound. MS: m/z=663.7 (M+1).

reactant | 3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine hydrochloride | 0.077 mmol, 50 mg | Cl.FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C3=CC=C(C=C3)N3CCNCC3)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1
reactant | 2-chloroacetamide | 0.116 mmol, 10 mg | ClCC(=O)N | C2H4ClNO
reactant | sodium bicarbonate | 0.231 mmol, 20 mg | C([O-])(O)=O.[Na+]
solvent | acetone ethanol | 5 mL | CC(=O)C.C(C)O
product | 2-(4-(4-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazin-1-yl)acetamide | 25 mg, 49.01% yield | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C3=CC=C(C=C3)N3CCN(CC3)CC(=O)N)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C36H34FN7O3S
